US05145893
3-Hydroxymethyl-9-octyloxy-3,8,8,10,10-pentamethyl-9-aza-1,5-dioxaspiro[5.5]undecane
A mixture of 11.0 grams (38.5 mmol) of 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-one, 10.2 grams (84.9 mmol) of 1,1,1-tris(hydroxymethyl)ethane, 1.4 grams of p-toluenesulfonic acid and 100 ml of toluene is heated at reflux for four hours. Water is collected in a Dean-Stark trap. Purification of the reaction mixture by flash chromatography on silica gel affords 2.1 grams (14% yield) of the title compound as a colorless syrup.

reactant | 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-one | 38.5 mmol, 11.0 grams | C(CCCCCCC)ON1C(CC(CC1(C)C)=O)(C)C | C17H33NO2
reactant | 1,1,1-tris(hydroxymethyl)ethane | 84.9 mmol, 10.2 grams | OCC(C)(CO)CO | C5H12O3
reactant | p-toluenesulfonic acid | 1.4 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Hydroxymethyl-9-octyloxy-3,8,8,10,10-pentamethyl-9-aza-1,5-dioxaspiro[5.5]undecane | 2.1 grams, 14% yield | OCC1(COC2(OC1)CC(N(C(C2)(C)C)OCCCCCCCC)(C)C)C | C22H43NO4
